US08431695B2
Preparation of 7-(8-methyloctahydropyrazino[2,1-c][1,4]oxazin-3-yl)-5-(2-phenyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine
In a manner similar to the procedure described for the preparation of Example 103 and using 7-(octahydropyrazino[2,1-c][1,4]oxazin-3-yl)-5-(2-phenyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine and iodomethane as the starting materials, 27 mg (52%) of the desired product was isolated. 1H NMR (300 MHz, DMSO-d6) 9.16 (s, 1 H), 8.10 (d, 2 H), 7.94 (s, 1 H), 7.85 (d, 1 H), 7.68 (s, 1 H), 7.59 (t, 2 H), 7.44 (t, 1 H), 7.21 (dd, 1H), 6.78 (s, 1H), 5.12 (dd, 1H), 3.78 (dd, 1H), 3.39-3.30 (m, 1H), 3.00 (dd, 1H), 2.71-2.67 (m, 2H), 2.61-2.54 (m, 1H), 2.48-2.38 (m, 1H), 2.27-2.19 (m, 2H), 2.15 (s, 3H), 2.10-2.02 (m, 1H), 1.63 (t, 1H); LC-MS [M+H]+=481, RT=1.08 min.

reactant | 7-(octahydropyrazino[2,1-c][1,4]oxazin-3-yl)-5-(2-phenyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | C1OC(CN2C1CNCC2)C2=CC(=C1C(=NC=NN12)N)C=1C=CC2=CN(N=C2C1)C1=CC=CC=C1 | C26H26N8O
reactant | iodomethane | IC | CH3I
product | 7-(8-methyloctahydropyrazino[2,1-c][1,4]oxazin-3-yl)-5-(2-phenyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | 27 mg, 52% | CN1CC2COC(CN2CC1)C1=CC(=C2C(=NC=NN21)N)C=2C=CC1=CN(N=C1C2)C2=CC=CC=C2 | C27H28N8O
